US09388161B2
A mixture of (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.100 g, 0.21 mmol), 4-bromo-2,6-dimethylpyridine (0.077 g, 0.42 mmol), copper (I) iodide (0.004 g, 0.02 mmol), picolinic acid (0.013 g, 0.10 mmol), and potassium phosphate (0.133 g, 0.63 mmol) in DMSO (2 mL) stirred overnight at 90° C. The reaction mixture was cooled to room temperature, poured into water (5 mL), and extracted with ethyl acetate (3×5 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 1; 2, ethyl acetate/petroleum ether) to afford (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.030 g, 25%) as yellow oil. MS (ESI, pos. ion) m/z 586 [M+H]+.

reactant | (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.21 mmol, 0.100 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O)C | C27H36N4O4
reactant | 4-bromo-2,6-dimethylpyridine | 0.42 mmol, 0.077 g | BrC1=CC(=NC(=C1)C)C | C7H8BrN
reactant | picolinic acid | 0.10 mmol, 0.013 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | potassium phosphate | 0.63 mmol, 0.133 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.02 mmol, 0.004 g | [Cu]I
solvent | water | 5 mL | O | H2O
product | (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-(2,6-dimethylpyridin-4-yloxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.030 g, 25% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC(=NC(=C1)C)C)C | C34H43N5O4
